### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/RegularityCompacts.lean [hunk 1]
```diff
@@ -194,17 +193,14 @@ instance InnerRegularCompactLTTop_of_pseudoEMetricSpace_completeSpace_secondCoun
...
     (μ : Measure α) :
     μ.InnerRegularCompactLTTop := by
-  constructor; intro A ⟨hA1, hA2⟩ r hr
-  have IRC : Measure.InnerRegularCompactLTTop (μ.restrict A) := by
-    exact @Measure.InnerRegular.instInnerRegularCompactLTTop _ _ _ _
-        (@InnerRegular_of_pseudoEMetricSpace_completeSpace_secondCountable _ _ _ _ _ _
-        (μ.restrict A) (@Restrict.isFiniteMeasure _ _ _ μ (fact_iff.mpr hA2.lt_top)))
+  constructor
+  intro A ⟨hA1, hA2⟩ r hr
+  have := Fact.mk hA2.lt_top
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/RegularityCompacts.lean:198]: Wow, what a golf!

File: Mathlib/MeasureTheory/Measure/RegularityCompacts.lean [hunk 2]
```diff
@@ -11,13 +11,14 @@ import Mathlib.Topology.UniformSpace.Cauchy
 /-!
 # Inner regularity of finite measures
 
-The main result of this file is `theorem InnerRegularCompactLTTop`:
+The main result of this file is
+`InnerRegularCompactLTTop_of_pseudoEMetricSpace_completeSpace_secondCountable`:
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/RegularityCompacts.lean:15]: I'd be good if somebody double-check that this doc-string change are accurate; I'm only "mostly sure".

**Review by grunweg — COMMENTED** [review]
Thanks! I agree with most of these, and am on the fence about just a few.
maintainer delegate

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 3]
```diff
@@ -69,14 +69,14 @@ theorem zero_divOf (g : G) : (0 : k[G]) /ᵒᶠ g = 0 :=
 
 @[simp]
 theorem divOf_zero (x : k[G]) : x /ᵒᶠ 0 = x := by
-  refine Finsupp.ext fun _ => ?_  -- Porting note (https://github.com/leanprover-community/mathlib4/issues/11041): `ext` doesn't work
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean:72]: Yeah, 65 left.

File: Mathlib/RingTheory/RootsOfUnity/Complex.lean [hunk 4]
```diff
@@ -123,14 +123,13 @@ theorem IsPrimitiveRoot.arg {n : ℕ} {ζ : ℂ} (h : IsPrimitiveRoot ζ n) (hn
   rw [Complex.isPrimitiveRoot_iff _ _ hn] at h
   obtain ⟨i, h, hin, rfl⟩ := h
   rw [mul_comm, ← mul_assoc, Complex.exp_mul_I]
-  refine ⟨if i * 2 ≤ n then i else i - n, ?_, ?_, ?_⟩
-  on_goal 2 =>
+  refine ⟨if i * 2 ≤ n then i else i - n, ?_, ?isCoprime, by omega⟩
+  case isCoprime =>
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/RingTheory/RootsOfUnity/Complex.lean:127]: My understanding is that `on_goal` doesn't require the block to close the goal, and `case` does, so the latter should be preferred for clarity when it works

File: Mathlib/Data/Finset/Lattice/Fold.lean [hunk 5]
```diff
@@ -650,9 +650,9 @@ theorem sup_mem_of_nonempty (hs : s.Nonempty) : s.sup f ∈ f '' s := by
   | empty => exfalso; simp only [Finset.not_nonempty_empty] at hs
   | @insert a s _ h =>
     rw [Finset.sup_insert (b := a) (s := s) (f := f)]
-    by_cases hs : s = ∅
-    · simp [hs]
-    · rw [← ne_eq, ← Finset.nonempty_iff_ne_empty] at hs
+    cases s.eq_empty_or_nonempty with
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Data/Finset/Lattice/Fold.lean:653]: LGTM

File: Mathlib/MeasureTheory/Measure/RegularityCompacts.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/MeasureTheory/Measure/RegularityCompacts.lean:15]: https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Regular.html#MeasureTheory.Measure.InnerRegularCompactLTTop exists, although it is in a different file.

File: Mathlib/MeasureTheory/Measure/RegularityCompacts.lean [hunk 6]
```diff
@@ -11,13 +11,14 @@ import Mathlib.Topology.UniformSpace.Cauchy
...
 A finite measure `μ` on a `PseudoEMetricSpace E` and `CompleteSpace E` with
 `SecondCountableTopology E` is inner regular with respect to compact sets. In other
 words, a finite measure on such a space is a tight measure.
 
 Finite measures on Polish spaces are an important special case, which makes the result
-`theorem PolishSpace.innerRegular_isCompact_measurableSet` an important result in probability.
+`PolishSpace.innerRegular_isCompact_isClosed_measurableSet` an important result in probability.
```
Comment (jcommelin) [inline Mathlib/MeasureTheory/Measure/RegularityCompacts.lean:21]: This looks fine to me, although it seems that the full name is in the `MeasureTheory` namespace.

**Comment by jcommelin** [comment]
bors d+

File: Mathlib/MeasureTheory/Measure/RegularityCompacts.lean (hunk 6 above)
Comment (Ruben-VandeVelde) [reply Mathlib/MeasureTheory/Measure/RegularityCompacts.lean]: Huh, so it is. I don't think it should be, but won't change that here

**Comment by Ruben-VandeVelde** [comment]
bors merge
